US07700628B2
Using methods substantially equivalent to those described in Example 91-G, except using potassium t-butoxide as the base; N-(3,4-dichlorophenyl)-5-fluoro-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]benzamide was prepared from 6-fluoro-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)phenyl]-4H-3,1-benzoxazin-4-one and 3,4-dichloroaniline.

reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | 6-fluoro-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)phenyl]-4H-3,1-benzoxazin-4-one | FC=1C=CC2=C(C(OC(=N2)C2=C(C=C(C=C2)N2CCCC2)OC2CCN(CC2)C)=O)C1 | C24H26FN3O3
reactant | 3,4-dichloroaniline | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
product | N-(3,4-dichlorophenyl)-5-fluoro-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]benzamide | ClC=1C=C(C=CC1Cl)NC(C1=C(C=CC(=C1)F)NC(C1=C(C=C(C=C1)N1CCCC1)OC1CCN(CC1)C)=O)=O | C30H31Cl2FN4O3
